US09023846B2
A solution of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [2-(4-methyl-piperazin-1-yl)-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-yl]-amide (300 mg, 0.517 mmol, prepared as described in the previous step) in AcOH (10 mL) was treated with iron powder (86.7 mg, 1.55 mmol) and heated to 100° C. for 5 h. The mixture was concentrated in vacuo, treated with saturated aqueous NaHCO3 (25 mL), and extracted three times with EtOAc (30 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 12-g SEPRA Si 50 SPE column (Isco system: Flow rate=10 mL/min; Eluent=EtOAc-hexanes, 1:99 v/v for 5 min, then 1:99 to 3:17 v/v over 40 min) to yield 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-4-(4-methyl-piperazin-1-yl)-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridine as a tan solid. 1H-NMR (400 MHz, CDCl3) δ: 9.99 (s, 1H), 7.76 (d, J=7.6 Hz, 1H), 7.56-7.61 (m, 2H), 7.45-7.52 (m, 1H), 6.95 (s, 1H), 4.30 (s, 7H), 2.59 (t, J=4.9 Hz, 4H), 2.36 (s, 3H), 1.45 (s, 9H). Mass Spectrum (LCMS, APCI pos.): Calculated for C26H29ClF3N7: 532.2 (M+H); Measured: 532.2.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [2-(4-methyl-piperazin-1-yl)-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-yl]-amide | CN1CCN(CC1)C1=NC(=CC(=C1[N+](=O)[O-])NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)C1=C(C=CC=C1)C(F)(F)F | C26H29ClF3N7O3
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
catalyst | iron | 1.55 mmol, 86.7 mg | [Fe] | Fe
product | 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-4-(4-methyl-piperazin-1-yl)-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridine | C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)C(F)(F)F)N2CCN(CC2)C)N1)Cl | C26H29ClF3N7
